US08003677B2
N-Methyl-N-thiazol-2-ylmethyl-6-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinamide
6-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinic acid (54 mg, 0.134 mmol) was reacted with methylthiazol-2-ylmethylamine analogously to example 3d. Yield: 52%, M+H+: 514.30.

reactant | 6-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinic acid | 0.134 mmol, 54 mg | FC(C1=C(C(=O)N2CC3=C(C2)CN(C3)C3=NC=C(C(=O)O)C=C3)C=CC=C1)(F)F | C20H16F3N3O3
reactant | methylthiazol-2-ylmethylamine | CNCC=1SC=CN1 | C5H8N2S
product | N-Methyl-N-thiazol-2-ylmethyl-6-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]nicotinamide | Yield: 52% | CN(C(C1=CN=C(C=C1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)CC=1SC=CN1 | C25H22F3N5O2S
